US05447943
To a solution of 6-bromo-2,2-dimethyl-3-(hydroxyamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran in tetrahydrofuran was added dropwise trimethylsilyl isothiocyanate at room temperature. The reaction mixture was stirred at room temperature for two hours. Water was added, and the organic layer separated, dried and evaporated. The residue was triturated with diethyl ether to give 0.18 g of 6-bromo-2,2-dimethyl-3-(N-hydroxythioureido)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran, m.p. 219° C.

reactant | 6-bromo-2,2-dimethyl-3-(hydroxyamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | BrC=1C=CC2=C(C(=C(C(O2)(C)C)CNO)N2C(C=CC=C2)=O)C1 | C17H17BrN2O3
reactant | trimethylsilyl isothiocyanate | C[Si](C)(C)N=C=S | C4H9NSSi
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-bromo-2,2-dimethyl-3-(N-hydroxythioureido)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.18 g | BrC=1C=CC2=C(C(=C(C(O2)(C)C)CN(C(=S)N)O)N2C(C=CC=C2)=O)C1 | C18H18BrN3O3S
